US07087601B2
2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole (200 mg, 0.57 mmol) CsF (350 mg, 2.3 mmol), Pd(Ph3P)4 (65 mg, 0.057 mmol), and 2-bromopyridine (140 mg, 0.57 mmol) were combined in a 2-neck flask. The flask was evacuated and filled with argon and DME (5 mL) was added. The suspension was deoxygenated with a stream of argon for 10 min. The reaction mixture was stirred under argon at 80° C. for 24 h. Crude mixture was adsorbed onto silica gel and purified by automated flash chromatography using and EtOAc/hexanes gradient to afford the desired 2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 8.08–8.05 (d, 1H), 7.98–7.95 (m, 2H), 7.89 (s, 1H), 7.84–7.79 (m, 1H), 7.63–7.60 (m, 1H), 7.45–7.38 (m, 3H), 4.02 (s, 3H). MS (ESI) 382 (M+H)+.

reactant | 2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole | 0.57 mmol, 200 mg | COC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C=1OC2=C(N1)C=CC=C2 | C20H22BNO4
reactant | 2-bromopyridine | 0.57 mmol, 140 mg | BrC1=NC=CC=C1 | C5H4BrN
catalyst | Pd(Ph3P)4 | 0.057 mmol, 65 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole | BrC1=CC=CC(=N1)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C19H13BrN2O2
